US09326987B2
2-(Hydroxymethyl)-1,3-thiazole-4-carboxylic acid
A solution of 2-{[(2,2-dimethylpropanoyl)oxy]methyl}-1,3-thiazole-4-carboxylic acid (3 g) and potassium carbonate (2.326 g) in methanol (100 ml) and water (30 ml) was heated to reflux for 4 h. The mixture was cooled and concentrated in vacuo to −30 ml. It was then acidified with 2 M HCl (aq) (50 ml) and concentrated in vacuo. The resulting solid was treated with hot MeOH/Ethyl acetate (2:1), washing well before filtering off the remaining solid. The filtrate was concentrated in vacuo to give a brown solid which was dissolved in MeOH and added to the top of 2×70 g aminopropyl cartridge that had been preconditioned with MeOH. The cartridges were both eluted with MeOH and then with 10% HCl in MeOH. The acidic fractions were combined and the solvent removed in vacuo to give the title compound as a brown oil, 550 mg.

reactant | 2-{[(2,2-dimethylpropanoyl)oxy]methyl}-1,3-thiazole-4-carboxylic acid | 3 g | CC(C(=O)OCC=1SC=C(N1)C(=O)O)(C)C | C10H13NO4S
reactant | potassium carbonate | 2.326 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2-(Hydroxymethyl)-1,3-thiazole-4-carboxylic acid | OCC=1SC=C(N1)C(=O)O | C5H5NO3S
